US07410966B2
a) 2-{3-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]propyl}-1H-isoindole-1.3 (2H)-dione
The title compound was prepared from 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol and 2-(3-bromopropyl)-1H-isoindole-1,3 (2H)-dione using the method described in Example 41.

reactant | 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)O | C12H8BrN3O
reactant | 2-(3-bromopropyl)-1H-isoindole-1,3 (2H)-dione | BrCCCN1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
product | 2-{3-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]propyl}-1H-isoindole-1.3 (2H)-dione | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCCCN1C(C3=CC=CC=C3C1=O)=O)C=C2 | C23H17BrN4O3
